US04518609
3-(5-Carbethoxy-2-furanyl)-2-methyl-2-propenal
A mixture of 8.2 g (0.042 mol) of 1-(5-carbethoxy-2-furanyl)-2-methyl-1-propene, 10.0 g of SeO2 (0.09 mol) and 120 mL of dioxane was degassed three times under argon and heated at 90° C. for 1.5 h. The reaction mixture was cooled, filtered through Celite and evaporated to remove most of the dioxane. The residue was filtered again and washed with 50 mL of dioxane. The filtrate and washings were concentrated to a small volume and chromatographed on 170 g of silica gel (25% Et2O/hexane) to give 3.9 g (44% yield) of a white solid. Recrystallization from EtOAc/hexane gave long white needles, mp 83° C.; IR (mull) 1740, 1690, 1650, 1320, 1280, 1240, 1200, 1040, 980, 780 cm-1 ; 1H NMR (CDCl3) δ1.43 (t, J=7 Hz, 3, CH2CH3), 2.18 (s, 3, C=CCH3), 4.48 (q, J=7 Hz, 2, CH2CH3), 6.88 and 7.35 (2d, J=4 Hz, 2, 3', 4'H), 7.15 (s, 1, C=CH), 9.60 (s, 1, CHO); MS calcd for C11H12O4 208.0736, found 208.0728.

reactant | 1-(5-carbethoxy-2-furanyl)-2-methyl-1-propene | 0.042 mol, 8.2 g | C(=O)(OCC)C1=CC=C(O1)C=C(C)C | C11H14O3
reactant | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 3-(5-Carbethoxy-2-furanyl)-2-methyl-2-propenal | 3.9 g, 44% yield | C(=O)(OCC)C1=CC=C(O1)C=C(C=O)C | C11H12O4
